US06559145B2
Ethyl 4-Hydroxy-6,8-dimethyl-1,7-naphthyridine-3-carboxylate [BV.3]
A mixture of 2,6-dimethyl-3-aminopyridine (0.85 g) and diethyl ethoxymethylenemalonate (1.53 g) is heated at 135° C. in xylene (30 mL) for 2 h allowing for removal of ethanol. After the solvent is removed, the mixture is suspended in diphenyl ether (15 mL). The mixture is then heated to reflux with removal of ethanol for 30 min. The reaction mixture is cooled to room temperature and hexanes (20 mL) is added. The resulting precipitate is filtered, washed with diethyl ether (2×10 mL) and dried to give 0.5 g (30%) of the title compound as a brown solid. Physical chracteristics: MS (ESI+) m/z 247 (M+H)+; 1H NMR (DMSO) δ 8.67, 7.97,4.38, 2.85,2.67, 1.40.

reactant | 2,6-dimethyl-3-aminopyridine | 0.85 g | CC1=NC(=CC=C1N)C | C7H10N2
reactant | diethyl ethoxymethylenemalonate | 1.53 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 4-Hydroxy-6,8-dimethyl-1,7-naphthyridine-3-carboxylate | 0.5 g, 30% | OC1=C(C=NC2=C(N=C(C=C12)C)C)C(=O)OCC | C13H14N2O3
